US07230001B1
1-{1-[4-(4-amino-3,5-dibromophenyl)-1,4-dioxobutyl]-4-piperidinyl}-1,3-dihydro-4-phenyl-2(2H)-imidazolone (Item no. 12)
A mixture of 1.0 g (2.849 mmol) of 4-amino-3,5-dibromo-γ-oxo-benzenebutanoic acid, 1.04 g (2.91 mmol) of 1,3-dihydro-1-(4-piperidinyl)-4-phenyl-2(2H)-imidazolone, 0.935 g (2.912 mmol) of TBTU, 1.02 ml (5.77 mmol) of DIEA and 50 ml of tetrahydrofuran was stirred for 1 hour at ambient temperature. The reaction mixture was diluted with 300 ml of water and acidified slightly with citric acid. The precipitate formed was suction filtered and washed carefully with water, then with 3 ml of tetrahydrofuran, and finally dried in a circulating air dryer at a temperature of 60° C. 1.3 g (79% of theoretical) of a colourless, crystalline product were obtained, Rf 0.47 (El A). IR (KBr): 1679.9 cm−1 (C═O) MS: M+=574/576/578 (Br2)

reactant | 4-amino-3,5-dibromo-γ-oxo-benzenebutanoic acid | 2.849 mmol, 1.0 g | NC1=C(C=C(C=C1Br)C(CCC(=O)O)=O)Br | C10H9Br2NO3
reactant | 1,3-dihydro-1-(4-piperidinyl)-4-phenyl-2(2H)-imidazolone | 2.91 mmol, 1.04 g | N1CCC(CC1)N1C(NC(=C1)C1=CC=CC=C1)=O | C14H17N3O
reactant | TBTU | 2.912 mmol, 0.935 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | 5.77 mmol, 1.02 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | KBr | [K+].[Br-]
reactant | Br2 | BrBr | Br2
solvent | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-{1-[4-(4-amino-3,5-dibromophenyl)-1,4-dioxobutyl]-4-piperidinyl}-1,3-dihydro-4-phenyl-2(2H)-imidazolone | NC1=C(C=C(C=C1Br)C(CCC(=O)N1CCC(CC1)N1C(NC(=C1)C1=CC=CC=C1)=O)=O)Br | C24H24Br2N4O3
